US04303660
20.5 g (0.08 mole) of 1-amino-5-methyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline are dissolved in 400 ml of pyridine. 100 ml of acetic anhydride are added and the solution is left to stand at room temperature for 10 hours. A portion of the product separates as a crystalline substance, the remaining portion is separated by evaporating the mother liquor. 21.1 g (90%) of 1-acetamino-5-methyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline are obtained. M.p.: 218°-220° C.

reactant | 1-amino-5-methyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 0.08 mole, 20.5 g | NC=1C=NN2C(N(C=3C=CC=CC3C21)C(C)=O)C | C13H14N4O
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetamino-5-methyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 21.1 g, 90% | N(C(=O)C)C=1C=NN2C(N(C=3C=CC=CC3C21)C(C)=O)C | C15H16N4O2
